US03950307
Preparation of 3,4,5,6-Tetrabromophthalimide
3,4,5,6-Tetrabromophthalic anhydride (100 grams; 0.217 mole) was charged into a glass reaction vessel. Concentrated ammonium hydroxide (300 ml) was incrementally added at room temperature with stirring. After the addition was completed the reaction slurry was heated with stirring for a period of about 2 hours resulting in the evaporation of most of the water present and leaving a yellow powder. The powder was further dried in a forced air oven and was then recrystallized from benzyl alcohol. The crystalline product was then washed with acetone, filtered and dried to yield the desired product 3,4,5,6-tetrabromophthalimide.

reactant | 3,4,5,6-Tetrabromophthalic anhydride | 0.217 mole, 100 grams | BrC1=C2C(C(=O)OC2=O)=C(C(=C1Br)Br)Br | C8Br4O3
reactant | ammonium hydroxide | 300 ml | [OH-].[NH4+]
solvent | water | O | H2O
product | 3,4,5,6-tetrabromophthalimide | BrC1=C2C(C(=O)NC2=O)=C(C(=C1Br)Br)Br | C8HBr4NO2
